US07622471B2
Piperidine-2-carboxamide
N-benzyloxypiperidine-2-carboxylic acid (2.0 g), 1-hydroxybenzotriazole (1.6 g), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.3 g) were dissolved in methylene chloride (20 mL). Concentrated aqueous ammonia (3 mL) and triethylamine (2 mL) were added to the resultant solution at room temperature, followed by stirring for 3 days. The reaction mixture was partitioned between water and methylene chloride. The organic layer was dried over magnesium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure. 10% Palladium-carbon (1 g, 50% wet) was added to the residue in methanol (30 mL), and the resultant mixture was stirred in a hydrogen atmosphere for 20 hours. The catalyst was removed by filtration. The solvent was evaporated under reduced pressure, and the thus-obtained oily product was dried, to thereby give the title compound as a solid (970 mg, quantitative amount).

reactant | N-benzyloxypiperidine-2-carboxylic acid | 2.0 g | C(C1=CC=CC=C1)ON1C(CCCC1)C(=O)O | C13H17NO3
reactant | 1-hydroxybenzotriazole | 1.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.3 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 3 mL | N | H3N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | Piperidine-2-carboxamide | 970 mg | N1C(CCCC1)C(=O)N | C6H12N2O
